US03963736
To a mixture containing 126 g of ethyl 4-chloro-6,7-methylenedioxyquinoline-3-carboxylate and 200 ml of absolute ethanol was added dropwise an ethanolic sodium ethylate solution prepared from 34 g of sodium ethylate and 250 ml of ethanol with stirring. The resulting mixture was refluxed for 1.5 hours and the ethanol was removed under reduced pressure. The residue was poured into ice-water, the insoluble solid was filtered, washed with water and dried to provide 126 g of almost pure ethyl 4-ethoxy-6,7-methylenedioxyquinoline-3-caboxylate, m.p. 84°-86°C. Recrystallization from petroleum ether gave colorless needles, m.p. 85°-85.5°C.

reactant | ethyl 4-chloro-6,7-methylenedioxyquinoline-3-carboxylate | 126 g | ClC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)OCC | C13H10ClNO4
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium ethylate | 34 g | CC[O-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 4-ethoxy-6,7-methylenedioxyquinoline-3-caboxylate | C(C)OC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)OCC | C15H15NO5
